### PR TITLE
Add Erdős Problem 127 (bipartite subgraphs beyond the Edwards bound), link the formal proofs

### LINKED ISSUE #6185: Erdős Problem 127
### What is the Erdős problem?

https://www.erdosproblems.com/127

Let $f(m)$ be maximal such that every graph with $m$ edges must contain a bipartite graph with $\geq \frac{m}{2}+\frac{\sqrt{8m+1}-1}{8}+f(m)$ edges. Is there an infinite sequence of $m_i$ such that $f(m_i)\to \infty$?

Status: proved (Lean). Solved by Alon ($f(n^2/2) \gg n^{1/2}$); a formal proof (including Edwards' theorem) exists in plby/lean-proofs (`Erdos127.erdos_127`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6185.

### What changed
Adds `FormalConjectures/ErdosProblems/127.lean` with `f m` (the largest `k` such that every graph with `m` edges has a bipartite subgraph with `≥ m/2 + (√(8m+1) − 1)/8 + k` edges) and:
- `erdos_127` (`research solved`, `answer(True)`): there is a sequence `mᵢ → ∞` with `f(mᵢ) → ∞` (Alon [Al96]). Linked to plby/lean-proofs `Erdos127.erdos_127` (Codex and GPT-5.6 Sol; 8 Mathlib-only files).
- `erdos_127.variants.edwards` (`research solved`): Edwards' theorem, linked to plby's `exists_edwards_bipartite_subgraph`.
- `erdos_127.variants.alon_upper` (`research solved`): Alon's bound `f(m) ≪ m^{1/4}`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos127.erdos_127` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the two linked statements on top of a renamed copy, same axioms (plby's `correction` is a `Nat.findGreatest`; it equals the `sSup` here since the guarantee set is bounded by `m`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge127

lemma guarantees_iff (m k : ℕ) :
    (∀ (V : Type) [Fintype V] (G : SimpleGraph V), G.edgeSet.ncard = m →
      ∃ H : SimpleGraph V, H ≤ G ∧ H.IsBipartite ∧
        (m : ℝ) / 2 + (√(8 * m + 1) - 1) / 8 + k ≤ H.edgeSet.ncard) ↔
    Erdos127Plby.Guarantees m k := by
  simp only [Erdos127Plby.Guarantees, Erdos127Plby.baseline]

lemma f_eq (m : ℕ) : Erdos127.f m = Erdos127Plby.correction m := by
  classical
  unfold Erdos127.f
  simp only [guarantees_iff]
  apply le_antisymm
  · apply csSup_le'
    intro k hk
    exact Erdos127Plby.le_correction_of_guarantees hk
  · exact le_csSup ⟨m, fun k hk => Erdos127Plby.guarantees_le_edges hk⟩
      (Erdos127Plby.correction_spec m)

theorem erdos_127_bridge : type_of% Erdos127.erdos_127 := by
  show True ↔ _
  simp only [true_iff, f_eq]
  exact Erdos127Plby.erdos_127

theorem edwards_bridge : type_of% @Erdos127.erdos_127.variants.edwards := by
  intro V _ G
  simpa only [Erdos127Plby.baseline] using Erdos127Plby.exists_edwards_bipartite_subgraph G

end Bridge127
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«127»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/127.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/127.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
